US08431593B2
Step 1. 5-Chloro-imidazo[1,2-a]pyrimidine
In a round bottom flask, 2-aminoimidazole sulfate (0.264 g, 1.0 mmol) is added to ethyl 3,3-dimethoxypropionate (0.296 g, 2.0 mmol). Piperidine (5 μL) and EtOH (5 mL) are then added and the flask is heated to reflux overnight. At RT, p-toluenesulfonic acid monohydrate (15 mg) is added and the reaction is returned to reflux for 6 h. At RT, freshly powdered K2CO3 (0.415 g, 3.0 mmol) is added and the reaction is heated to reflux overnight. The reaction is then concentrated to dryness and the residue is triturated with CHCl3 (10 mL) and again concentrated to dryness. The residue is treated with POCl3 (2.0 mL, 21.5 mmol) and heated to 90° C. for 1.5 h, and then to 115° C. for 1 h. At RT, the reaction is concentrated to dryness, and then dissolved in CH2Cl2 and washed with NaHCO3 (sat.) followed by brine. The organic solution is dried over Na2SO4, filtered and concentrated to dryness. The residue is purified via silica gel chromatography using EtOAc to afford the title compound. 1H NMR (400 MHz, CDCl3 with 5% CD3OD (v/v)) δ 8.44 (dd, J=6.8, 0.8, 1H), 7.70 (d, J=0.8, 1H), 7.57 (bs, 1H), 6.92 (dd, J=6.8, 0.8, 1H).

reactant | 2-aminoimidazole sulfate | 1.0 mmol, 0.264 g | S(=O)(=O)(O)O.NC=1NC=CN1
reactant | ethyl 3,3-dimethoxypropionate | 2.0 mmol, 0.296 g | COC(CC(=O)OCC)OC | C7H14O4
reactant | Piperidine | 5 μL | N1CCCCC1 | C5H11N
reactant | p-toluenesulfonic acid monohydrate | 15 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | K2CO3 | 3.0 mmol, 0.415 g | C(=O)([O-])[O-].[K+].[K+]
reactant | POCl3 | 21.5 mmol, 2.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-Chloro-imidazo[1,2-a]pyrimidine | ClC1=CC=NC=2N1C=CN2 | C6H4ClN3
